US04957925
(b) 2-(4-Hydroxybenzenesulphonyl)pyrimidine
A mixture of 4.6×10-3 mol of 2-(4-methoxybenzenesulphonyl)pyrimidine and 10 of 47%-hydrobromic acid was heated for - hour at 90° C. The reaction medium was neutralized to a pH of 7 with an ammonia solution and the pasty residue was extracted with dichloromethane. The organic phase was then dried and evaporated and the residue so provided was purified by chromatography on a silica column using dichloromethane as eluent.

reactant | 2-(4-methoxybenzenesulphonyl)pyrimidine | 4.6×10-3 mol | COC1=CC=C(C=C1)S(=O)(=O)C1=NC=CC=N1 | C11H10N2O3S
reactant | hydrobromic acid | Br | BrH
reactant | ammonia | N | H3N
product | 2-(4-Hydroxybenzenesulphonyl)pyrimidine | OC1=CC=C(C=C1)S(=O)(=O)C1=NC=CC=N1 | C10H8N2O3S
